US07863290B2
5.1 (−)-5-[2-(−1H-Imidazol-2-yl)pyrid-5-yl]-1-azabicyclo[3.2.1]octane
1 g (5.7 mmol) of 1-(dimethylaminosulfonyl)imidazole dissolved in 9 ml of tetrahydrofuran is introduced into a 25 ml three-necked flask. The reaction medium is cooled to −78° C. and 4 ml of a 1.6M solution of n-butyllithium in hexane is added dropwise over 20 minutes. 0.73 g (5.4 mmol) of zinc chloride dissolved in 4 ml of tetrahydrofuran is then added. The mixture is stirred while allowing the temperature to return to 20° C., and 1.5 g (11.1 mmol) of zinc chloride, 0.1 g (0.09 mmol) of tetrakis(triphenylphosphine)palladium and 0.56 g (2.1 mmol) of (−)-5-(2-bromopyrid-5-yl)-1-azabicyclo[3.2.1]octane (prepared according to the method described in step 1.2 of Example 1), dissolved in 5 ml of tetrahydrofuran, are then successively added. The mixture is then refluxed for 24 hours and then cooled to room temperature. 30 ml of aqueous 30% sodium hydroxide solution and 50 ml of chloroform are added. The aqueous phase is extracted with chloroform and the combined organic phases are then washed with saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue is purified by chromatography on a column of silica gel, eluting with a mixture of chloroform, methanol and aqueous ammonia in 95/5/0.5 proportions and is used in the following step without further purification.

reactant | 1-(dimethylaminosulfonyl)imidazole | 5.7 mmol, 1 g | CN(S(=O)(=O)N1C=NC=C1)C | C5H9N3O2S
reactant | n-butyllithium | C(CCC)[Li]
reactant | (−)-5-(2-bromopyrid-5-yl)-1-azabicyclo[3.2.1]octane | 2.1 mmol, 0.56 g | BrC1=NC=C(C=C1)C12CCCN(CC1)C2 | C12H15BrN2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 9 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
catalyst | zinc chloride | 5.4 mmol, 0.73 g | [Cl-].[Zn+2].[Cl-]
catalyst | zinc chloride | 11.1 mmol, 1.5 g | [Cl-].[Zn+2].[Cl-]
catalyst | tetrakis(triphenylphosphine)palladium | 0.09 mmol, 0.1 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | (−)-5-[2-(−1H-Imidazol-2-yl)pyrid-5-yl]-1-azabicyclo[3.2.1]octane | N1C(=NC=C1)C1=NC=C(C=C1)C12CCCN(CC1)C2 | C15H18N4
